US09373801B2
Precursor 1: Decyldimethylethynylsilane
A round bottom flask was charged with chlorodecyldimethylsilane (12.362 g; 50.00 mmol) and the flask was cooled with an ice-water bath to 0° C. Ethynylmagnesium bromide (0.5M in THF, 125.0 cm3, 62.50 mmol) was added into the flask over 30 min. The cooling bath was removed and the mixture was stirred at 50° C. for an additional hour.

reactant | chlorodecyldimethylsilane | 50.00 mmol, 12.362 g | ClCCCCCCCCCC[SiH](C)C | C12H27ClSi
reactant | Ethynylmagnesium bromide | 62.50 mmol, 0.5M, 125.0 cm3 | C(#C)[Mg]Br
product | Decyldimethylethynylsilane | C(CCCCCCCCC)[Si](C#C)(C)C | C14H28Si
